US07618990B2
A solution of ethyl 1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclopropane carboxylate (3.91 g, 10.6 mmol), prepared in the previous step, in 50 mL of anhydrous tetrahydrofuran was added under nitrogen dropwise to a suspension of lithium aluminum hydride (1.00 g, 26.3 mmol) in 20 mL of anhydrous tetrahydrofuran at ice-bath temperature. After the addition, the cooling bath was removed and the stirring continued for 1 h. Water (1 mL) was slowly added to the reaction, followed by the addition of 1 mL of 15% NaOH and then 3 mL of water. After the additions, the reaction was stirred for 1 h. The reaction was diluted with ethyl acetate and filtered through the Celite™ reagent. The filtrate was extracted two times with water, dried (anhydrous MgSO4), filtered and the solvent removed under reduced pressure to give a crude residue. The residue was taken up in methylene chloride, applied to a Biotage FLASH 40+™ cartridge and the methylene chloride allowed to evaporate. Purification of the residue on the samplet on a Horizon™ Flash Collector (the Biotage FLASH 40+™ cartridge) using a linear gradient of 5% methylene chloride-hexane to 100% methylene chloride gave a material which was recrystallized from methylene chloride to give (1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclopropyl)methanol (0.4867 g, 14%) as a white solid mp 129-131° C.; MS (ES) m/z 324.9.

reactant | ethyl 1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclopropane carboxylate | 10.6 mmol, 3.91 g | BrC1=CC=C(C=C1)C=1N=C(SC1)NC1(CC1)C(=O)OCC | C15H15BrN2O2S
reactant | lithium aluminum hydride | 26.3 mmol, 1.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclopropyl)methanol | 0.4867 g, 14% | BrC1=CC=C(C=C1)C=1N=C(SC1)NC1(CC1)CO | C13H13BrN2OS
